US06156700
Preparation of 2-Propynyl 2-{{2-{5-[3.6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}propionate
A mixture of 2-{{2-{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}propionic acid (0.510 g, 1.00 mmol) and oxalyl chloride (0.380 g, 3.00 mmol) in methylene chloride is stirred at room temperature for 30 minutes and concentrated in vacuo to obtain a yellow foam. The foam is diluted with methylene chloride and the resultant solution is treated with a solution of propargyl alcohol (0.110 g, 2.00 mmol) in methylene chloride, stirred at room temperature for 24 hours, and concentrated in vacuo to obtain an oil. Flash column chromatography of the oil using silica gel, a hexanes/methylene chloride solution (1:1) and a 5% diethyl ether in methylene chloride solution gives the title product (0.400 g) which is identified by NMR spectral analyses.

reactant | 2-{{2-{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}propionic acid | 1.00 mmol, 0.510 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C2=C(C=CC(=C2)OC(C(=O)O)C)C)C1)=O | C23H18F3N3O5S
reactant | oxalyl chloride | 3.00 mmol, 0.380 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | propargyl alcohol | 2.00 mmol, 0.110 g | C(C#C)O | C3H4O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Propynyl 2-{{2-{5-[3.6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}propionate | 0.400 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C2=C(C=CC(=C2)OC(C(=O)OCC#C)C)C)C1)=O | C26H20F3N3O5S
